US06162818
To a solution of 1-t-butoxycarbonyl-2,3-dihydro-7-methyl-6-nitroindole (5.00 g, 17.9 mmol), as prepared above (Example 1C), in methylene chloride (75 mL) is slowly added trifluoroacetic acid (15 mL). The reaction is stirred for 1.5 hours then partitioned between 200 mL of methylene chloride and 200 mL of 1 M aqueous sodium hydroxide solution. The methylene chloride layer is collected, dried over magnesium sulfate, filtered and evaporated to dryness on a rotary evaporator to afford 3.1 g of 2,3-dihydro-7-methyl-6-nitroindole as an orange solid (97% yield).

reactant | 1-t-butoxycarbonyl-2,3-dihydro-7-methyl-6-nitroindole | 17.9 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C(=C12)C)[N+](=O)[O-] | C14H18N2O4
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-7-methyl-6-nitroindole | 3.1 g, 97% yield | CC=1C(=CC=C2CCNC12)[N+](=O)[O-] | C9H10N2O2
